US08633315B2
Step 4: 1-(5-hydroxy-2-(trifluoromethyl)pyridin-4-yl)ethanone
A mixture of 1-(5-(methoxymethoxy)-2-(trifluoromethyl)pyridin-4-yl)ethanone (3.2 g, 13 mmol) and 5N HCl (40 ml) in i-PrOH/THF (1:1, 40 ml) was stirred at 45° C. overnight. The mixture was cooled, concentrated, taken up in H2O, neutralized with saturated NaHCO3, and extracted with DCM (3×). The organic layers were combined, dried over Na2SO4, and concentrated to give the title compound as a tan solid. MS (m+1): 206.2

reactant | 1-(5-(methoxymethoxy)-2-(trifluoromethyl)pyridin-4-yl)ethanone | 13 mmol, 3.2 g | COCOC=1C(=CC(=NC1)C(F)(F)F)C(C)=O | C10H10F3NO3
reactant | HCl | 5N, 40 ml | Cl | ClH
solvent | i-PrOH THF | 40 ml | CC(C)O.C1CCOC1
product | 1-(5-hydroxy-2-(trifluoromethyl)pyridin-4-yl)ethanone | OC=1C(=CC(=NC1)C(F)(F)F)C(C)=O | C8H6F3NO2
